US04957928
While stirring at a temperature of from 0° to 5°, a solution of 0.86 g (9.9 mmol) of acrylic acid methyl ester in 10 ml of methanol is added dropwise within a period of 15 minutes to a solution of 2.23 g (10 mmol) of 3-(2-aminoethyl)-2,2-dimethyl-6-fluoro-chroman in 50 ml of methanol. The reaction mixture is then stirred for 16 hours at from 0° to 5° and then concentrated by evaporation in vacuo. The oily residue is chromatographed on 200 g of silica gel (0.040-0.063 mm) with ethyl acetate as eluant, yielding 1.9 g (61.4% of the theoretical yield) of N-[2-(2,2-dimethyl-6-fluoro-chroman-3-yl)-ethyl]-N-(2-methoxycarbonylethyl)-amine in the form of a light-yellow oil. The N-[2-(2,2-dimethyl-6-fluoro-chroman-3-yl)-ethyl]-N-(2-methoxycarbonylethyl)-amine hydrochloride, prepared therefrom with hydrochloric acid in diethyl ether, crystallises from acetone/diethyl ether and melts at 129°-131°.

reactant | acrylic acid methyl ester | 9.9 mmol, 0.86 g | COC(C=C)=O | C4H6O2
reactant | 3-(2-aminoethyl)-2,2-dimethyl-6-fluoro-chroman | 10 mmol, 2.23 g | NCCC1C(OC2=CC=C(C=C2C1)F)(C)C | C13H18FNO
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | N-[2-(2,2-dimethyl-6-fluoro-chroman-3-yl)-ethyl]-N-(2-methoxycarbonylethyl)-amine | CC1(OC2=CC=C(C=C2CC1CCNCCC(=O)OC)F)C | C17H24FNO3
